US06284915B1
4′-(2-Hydroxy ethyl)octanophenone (1.0 g) prepared in the step B was dissolved in dichloromethane (10 ml) to obtain a solution. p-Toluene sulfonyl chloride (923 mg) and pyridine (383 mg) were added to the solution with cooling, and the mixture was stirred at room temperature for 2 hours. After the reaction, ice water was added to the solution, the solution was stirred at room temperature for 20 minutes. Dichloromethane layer was washed with 2% hydrochloric acid, sodium bicarbonate solution, and water. The dichloromethane layer was dried over anhydrous sodium sulfate, and concentrated. The residue was recrystallized from hexane-ethyl acetate (10:1) to obtain 2-(4-octanoyl phenyl)ethyl p-toluene sulfonate (950 mg) in the form of colorless crystal.

reactant | 4′-(2-Hydroxy ethyl)octanophenone | 1.0 g | OCCC1=CC=C(C=C1)C(CCCCCCC)=O | C16H24O2
reactant | p-Toluene sulfonyl chloride | 923 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 383 mg | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(4-octanoyl phenyl)ethyl p-toluene sulfonate | 950 mg | C1(=CC=C(C=C1)S(=O)(=O)OCCC1=CC=C(C=C1)C(CCCCCCC)=O)C | C23H30O4S
